US07642264B2
2-(2-Chloro-pyridin-4-yl)-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine (example A.41) (0.4 g, 1.46 mmol) and commercially available 2-chloro-pyridine-4-boronic acid (0.3 g, 1.9 mmol) according to the general procedure IVb. Obtained as a light brown solid (0.15 g, 29%). MS (ISP) 350.2 [(M+H)+]; mp 155° C.

reactant | 2-chloro-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine | 1.46 mmol, 0.4 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C11H7Cl3N2
reactant | 2-chloro-pyridine-4-boronic acid | 1.9 mmol, 0.3 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 2-(2-Chloro-pyridin-4-yl)-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C16H10Cl3N3
